US05221676
7-[3-[2-(Aminomethyl)phenyl]-1-pyrrolidinyl]-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid
Starting from 6,7-difluoro-1-(2,4 difluorophenyl)-1,4 dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid (0.40 g, 1.1 mmol) and 2-(3 pyrrolidinyl)benzenemethanamine, a procedure analogous to that given in Example 1, provided the title compound (0.40 g, 72%) as a beige solid, mp 283°-285° C. (dec).

reactant | 6,7-difluoro-1-(2,4 difluorophenyl)-1,4 dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid | 1.1 mmol, 0.40 g | FC=1C(=C2C(C(=CN(C2=CC1F)C1=C(C=C(C=C1)F)F)C(=O)O)=O)C | C17H9F4NO3
reactant | 2-(3 pyrrolidinyl)benzenemethanamine | N1CC(CC1)C1=C(C=CC=C1)CN | C11H16N2
product | 7-[3-[2-(Aminomethyl)phenyl]-1-pyrrolidinyl]-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid | 0.40 g, 72% | NCC1=C(C=CC=C1)C1CN(CC1)C1=C(C(=C2C(C(=CN(C2=C1)C1=C(C=C(C=C1)F)F)C(=O)O)=O)C)F | C28H24F3N3O3
